US05382680
FIG. 2 illustrates a general reaction scheme for the preparation of 2(4-(((4-chlorobenzyl)amino) carbonyl)phenoxy)-2-methyl propionic acid. In accordance with the illustrated scheme, 3.5 g (25 mmol) of p-hydroxybenzoic acid (PBA), 6.07 g (50 mmol) of 4-chlorobenzyl amine and mesitylene are added together for a total volume of 25 milliliters (ml) and this volume is heated to reflux. To this refluxing mixture is added 0.88 g (6.5 mmol) phosphorous pentachloride (PCl5) and refluxing is continued for an additional hour. The cooled reaction mixture is washed with 10 ml of 1 normal (1N) hydrochloric acid (HCl) and extracted with 10 ml of 2N sodium hydroxide (NaOH). The combined alkali layer is washed with ether, then cooled and acidified with 1N HCl to provide 4.2 g of N-(4-chorobenzyl)-4-hydroxybenzamide which has the formula C14H12ClNO2 as an intermediate product (81% yield), mp. 190°-192° C. The intermediate product is recrystallized from a 1:2 acetone:petroleum ether solution and a 1.3 g (5 mmol) portion is O-alkylated. Then 2.75 g of pulverized sodium hydroxide is added to a cooled and stirred solution of the reaction intermediate, N-(4-chlorobenzyl)-4-hydroxybenzamide, where 1.3 g (5 mmol) of N-(4-chlorobenzyl)-4-hydroxybenzamide is present in acetone for a total volume of 25 ml. Subsequently, 1.25 ml (10.4 mmol) of chloroform is added dropwise to the solution over 10 minutes. The reaction mixture is stirred overnight at room temperature and acetone is removed under vacuum. The residue is dissolved in 10 ml of water, washed with ether, and then cooled and acidified with dilute hydrochloric acid to produce a yellow precipitate of 2(4-(((4-chlorobenzyl)amino)carbonyl)phenoxy)2-methyl propionic acid which is indicated in FIG. 2. The precipitate is purified via extraction with aqueous sodium bicarbonate followed by acidification, using dilute HCl, of the alkaline layer. The resulting propionic acid is then crystallized from a 1:2 acetone:petroleum ether mixture to produce a compound having the formula C18H18ClNO4 in a 50% yield or 0.86 mg. The crystallized product has a melting point of 180° C.

reactant | 2(4-(((4-chlorobenzyl)amino) carbonyl)phenoxy)-2-methyl propionic acid | ClC1=CC=C(CNC(=O)C2=CC=C(OC(C(=O)O)(C)C)C=C2)C=C1 | C18H18ClNO4
reactant | p-hydroxybenzoic acid | 25 mmol, 3.5 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 4-chlorobenzyl amine | 50 mmol, 6.07 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
reactant | phosphorous pentachloride | 6.5 mmol, 0.88 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | N-(4-chorobenzyl)-4-hydroxybenzamide | 4.2 g | ClC1=CC=C(CNC(C2=CC=C(C=C2)O)=O)C=C1 | C14H12ClNO2
